US07915250B2
1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-(1-hydroxyethyl)azetidin-3-ol (267 mg, 0.543 mmol), was dissolved in dichloromethane (10 mL) and treated with 4-(dimethylamino)pyridine (80 mg, 0.661 mmol) and 2,4,6-triisopropylbenzenesulfonyl chloride (183 mg, 0.604 mmol) at ambient for 15 h. Triethylamine (0.076 mL, 0.545 mmol) was added and the mixture was stirred at ambient for 3 h and then at 35° C. for 4 h and then at ambient for a further 15 h. 2,4,6-Triisopropylbenzenesulfonyl chloride (110 mg, 0.363 mmol) was added and the mixture was stirred at 35° C. for 3 h and then 4-(dimethylamino)pyridine (80 mg, 0.661 mmol) was added and the mixture was stirred at 35° C. for 2 h. 2,4,6-Triisopropylbenzenesulfonyl chloride (303 mg, 1.0 mmol) was added and the mixture was stirred at 35° C. for a further 18 h. The mixture was adsorbed on to silica and purified by column chromatography (silica gel, 30-50% ethyl acetate in hexanes) to give 1-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]ethyl 2,4,6-tris(1-methylethyl)benzenesulfonate (201 mg, 0.265 mmol, 49% yield): MS (EI) for C33H38F3IN2O5S: 759 (MH+).

reactant | 1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-(1-hydroxyethyl)azetidin-3-ol | 0.543 mmol, 267 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)C(C)O)NC1=C(C=C(C=C1)I)F | C18H16F3IN2O3
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | 0.604 mmol, 183 mg | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | Triethylamine | 0.545 mmol, 0.076 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-Triisopropylbenzenesulfonyl chloride | 0.363 mmol, 110 mg | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | 2,4,6-Triisopropylbenzenesulfonyl chloride | 1.0 mmol, 303 mg | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.661 mmol, 80 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-(dimethylamino)pyridine | 0.661 mmol, 80 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]ethyl 2,4,6-tris(1-methylethyl)benzenesulfonate | 0.265 mmol, 201 mg, 49% yield | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)OC(C)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | C33H38F3IN2O5S
